US05665718
5.17 g (15 mmol) of 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 45 ml of N,N-dimethylformamide, 6.5 ml (37.5 mmol) of N-ethyldiisopropylamine and 3.63 g (30 mmol) of allyl bromide were stirred at room temperature for 1 hour. The reaction solution was evaporated and the residue was chromatographed on 250 g of silica gel while eluting with ethyl acetate. The uniform fractions having the smaller Rf value were evaporated. There was obtained 0.344 g (6%) of 3-(3-allylaminomethyl-1,2,4-oxadiazol-5-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a]-[1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 171°-174°.

reactant | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 15 mmol, 5.17 g | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C15H13ClN6O2
reactant | N-ethyldiisopropylamine | 37.5 mmol, 6.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 30 mmol, 3.63 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 3-(3-allylaminomethyl-1,2,4-oxadiazol-5-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a]-[1,4]benzodiazepin-6-one | 0.344 g, 6% | C(C=C)NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C18H17ClN6O2
